US07465726B2
3-[1-(2-Dimethylaminoethyl)-1H-imidazol-2-yl]phenylamine
Dimethyl-{2-[2-(3-nitrophenyl)imidazol-1-yl]ethyl}amine (88 mg, 0.34 mmol) in methanol (5 mL) was hydrogenated in the presence of 10% Pd/C (80 mg) for 16 h. The reaction mixture was filtered through a Celite pad. The filtrate was concentrated in vacuo to afford the title compound, which was used directly in the next step without purification. 1H-NMR (CDCl3, 400 MHz): δ=2.23 (s, 6H), 2.63 (t, J=7.2 Hz, 2H), 4.13 (d, J=7.2 Hz, 2H), 6.72-6.75 (m, 1H), 6.90-6.92 (m, 1H), 6.96 (t, J=2.0 Hz, 1H), 7.08 (d, J=1.2 Hz, 1H), 7.11 (d, J=1.2 Hz, 1H), 7.22 (t, J=7.6 Hz, 1H). MS (ES+): m/z 231.22 [MH+]. HPLC: tR=0.33 min (ZQ2000, polar—5 min).

reactant | Dimethyl-{2-[2-(3-nitrophenyl)imidazol-1-yl]ethyl}amine | 0.34 mmol, 88 mg | CN(CCN1C(=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C | C13H16N4O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 3-[1-(2-Dimethylaminoethyl)-1H-imidazol-2-yl]phenylamine | CN(CCN1C(=NC=C1)C=1C=C(C=CC1)N)C | C13H18N4
